US09447044B2
Step A: 2-(3,3,3-trifluoro-propylsulfanyl)-nicotinic acid
2-Mercapto-nicotinic acid (1 g, 6.4 mmol) and 3-bromo-1,1,1-trifluoropropane were reacted in the same manner as in Step A of Preparation Example 10 to obtain the title compound (0.16 g, 10%).

reactant | 2-Mercapto-nicotinic acid | 6.4 mmol, 1 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | 3-bromo-1,1,1-trifluoropropane | BrCCC(F)(F)F | C3H4BrF3
product | 2-(3,3,3-trifluoro-propylsulfanyl)-nicotinic acid | 0.16 g, 10% | FC(CCSC1=C(C(=O)O)C=CC=N1)(F)F | C9H8F3NO2S
